US07622598B2
An ethanol (201 ml) solution of ascofuranone (1,058 mg, 2.52 mmlo) was stirred in the presence of 5% Pd/C (435 mg) in a hydrogen atmosphere at 0(C for three hours. After the catalyst was separated by filtration with the use of Celite, the filtrate was concentrated to obtain a crude product (1,178 mg). This product was purified by silica gel column chromatography (hexane:ethyl acetate═5:1) to obtain 3-chloro-4,6-dihydroxy-2-methyl-5-[3-methyl-7-(tetrahydro-5,5-dimethyl-4-oxo-2-furanyl)-octyl]benzaldehyde (a diastereomeric mixture, yellow syrup 262 mg, yield 25%).

reactant | ascofuranone | 1,058 mg | CC1=C(C(=C(C(=C1Cl)O)C/C=C(\C)/CC/C=C(\C)/[C@@H]2CC(=O)C(O2)(C)C)O)C=O | C23H29ClO5
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 435 mg | [Pd] | Pd
solvent | ethanol | 201 ml | C(C)O | C2H6O
product | 3-chloro-4,6-dihydroxy-2-methyl-5-[3-methyl-7-(tetrahydro-5,5-dimethyl-4-oxo-2-furanyl)-octyl]benzaldehyde | ClC=1C(=C(C=O)C(=C(C1O)CCC(CCCC(C)C1OC(C(C1)=O)(C)C)C)O)C | C23H33ClO5
